US08030337B2
N-[2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]propionamide
2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethanamine (30.0 mg, 0.148 mmol) was dissolved in tetrahydrofuran (1 mL), triethylamine (31.0 μL, 0.222 mmol) and propionic anhydride (22.8 μL, 0.178 mmol) were added under ice-cooling, and the mixture was stirred for 15 min. To the reaction solution was added saturated aqueous sodium hydrogencarbonate solution. The mixture was extracted with ethyl acetate and washed with saturated brine. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (33.9 mg, yield 89%).

reactant | 2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethanamine | 0.148 mmol, 30.0 mg | O1C=NC2=C1C=1C(CCC1C=C2)=CCN | C12H12N2O
reactant | triethylamine | 0.222 mmol, 31.0 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.178 mmol, 22.8 μL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-[2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]propionamide | 33.9 mg, yield 89% | O1C=NC2=C1C=1C(CCC1C=C2)=CCNC(CC)=O | C15H16N2O2
